US07511035B2
(c) 6-{[(2-{4-[6-(methyloxy)-1,5-naphthyridin-4-yl]-3-oxo-1-piperazinyl}ethyl)amino]methyl}-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one
To a solution of 4-(2-aminoethyl)-1-[6-(methyloxy)-1,5-naphthyridin-4-yl]-2-piperazinone (168 mg, 0.558 mmol) in DCM-EtOH (6 mL, 5:1) at 25° C. were added Na2SO4 (158 mg, 1.11 mmol) and 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carbaldehyde (108 mg, 0.558 mmol). After 12 h, Na(OAc)3BH (177 mg, 0.837 mmol) was added and following an additional 2 h, the solution was partitioned between DCM-H2O. The aqueous phase was extracted several times with DCM and the combined organic fractions were dried (Na2SO4), concentrated and purified via column chromatography (silica, 1% MeOH in DCM (1% NH4OH)) affording the title compound (100 mg, 37%) as a yellow solid: LCMS (ES) m/e 480 (M+H)+; 1H NMR (CD3OD, 400 MHz) δ 8.81 (d, J=4.7 Hz, 1H), 8.28 (d, J=9.1 Hz, 1H), 7.72 (d, J=7.8 Hz, 1H), 7.71 (d, J=4.7 Hz, 1H), 7.28 (d, J=9.1 Hz, 1H), 7.06 (d, J=8.1 Hz, 1H), 4.04 (s, 3H), 3.92-3.94 (m, 2H), 3.88 (s, 2H), 3.51 (s, 2H), 3.34 (2H), 3.00-3.03 (m, 2H), 2.82-2.84 (m, 2H), 2.77-2.79 (m, 2H).

reactant | 4-(2-aminoethyl)-1-[6-(methyloxy)-1,5-naphthyridin-4-yl]-2-piperazinone | 0.558 mmol, 168 mg | NCCN1CC(N(CC1)C1=CC=NC2=CC=C(N=C12)OC)=O | C15H19N5O2
reactant | Na2SO4 | 1.11 mmol, 158 mg | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carbaldehyde | 0.558 mmol, 108 mg | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
reactant | Na(OAc)3BH | 0.837 mmol, 177 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM EtOH | 6 mL | C(Cl)Cl.CCO
product | 6-{[(2-{4-[6-(methyloxy)-1,5-naphthyridin-4-yl]-3-oxo-1-piperazinyl}ethyl)amino]methyl}-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one | 100 mg, 37% | COC=1N=C2C(=CC=NC2=CC1)N1C(CN(CC1)CCNCC=1C=CC=2SCC(NC2N1)=O)=O | C23H25N7O3S
